US07947730B2
c) Hydroxy-diphenyl-acetic acid (R)-1-methyl-piperidin-3-yl ester
To a mixture of (R)-1-methyl-piperidine-3-ol (4.61 g, 0.040 mol) and hydroxy-diphenyl-acetic acid methyl ester (9.63 g, 0.040 mol) in cyclohexane (50 ml) is added preactivated 4A molecular sieves and the mixture heated to 50° C. Sodium metal (50 mg) is then added and the resulting mixture heated to reflux. After 1 hour further sodium (50 mg) is added and reflux maintained for 5 hours. Concentration, re-dissolution in chloroform and washing with water followed by brine, drying over magnesium sulphate, filtration and evaporation gives a crude product. Purification by vacuum flash silica chromatography (gradient elution: DCM to DCM:methanol 20:1) gives, after evaporation, the title product as a foam.

reactant | (R)-1-methyl-piperidine-3-ol | 0.040 mol, 4.61 g | CN1C[C@@H](CCC1)O | C6H13NO
reactant | hydroxy-diphenyl-acetic acid methyl ester | 0.040 mol, 9.63 g | COC(C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | C15H14O3
reactant | Sodium | 50 mg | [Na] | Na
reactant | sodium | 50 mg | [Na] | Na
solvent | cyclohexane | 50 ml | C1CCCCC1 | C6H12
product | Hydroxy-diphenyl-acetic acid (R)-1-methyl-piperidin-3-yl ester | CN1C[C@@H](CCC1)OC(C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | C20H23NO3
